US05663200
50e) 5(S)-(Boc-Amino)-4(S)-(tert-butyldimethylsilyloxy)-6-phenyl-2(R)-[(2-methoxyphenyl)methyl]hexanoic acid
A solution of 500 mg of 5(S)-(Boc-amino)-4(S)-hydroxy-6-phenyl-2(R)-[(2-methoxyphenyl)methyl]hexanoic acid in 5 ml of DMF is treated, while being stirred, with 614 mg of imidazole and 796 mg of tert-butyldimethylchlorosilane. After it has been stirred at RT for 20 h, the reaction solution is poured onto ice-water and the whole is extracted with ethyl acetate. The organic phase is washed with 10% citric acid solution and saline. The silyl ester group in the crude product is detached, at RT in 2 h, in a mixture consisting of 13.29 ml of methanol, 5.13 ml of THF, 5.13 ml of water and 904 mg of potassium carbonate. The mixture is concentrated down to half its volume on a RE at approximately 30° C., and the residue is diluted with ethyl acetate, and the organic phase is washed with 10% citric acid and saline (all being cold). The combined aqueous phases are reextracted with ethyl acetate. The combined organic phases are dried over sodium sulfate and the residue is chromatographed on silica gel (eluent, hexane:ethyl acetate, 3:1 and 1:1), and the title compound is obtained. TLC Rf (hexane/ethyl acetate 2.5:1)=0.12. FAB-MS (M+H)+ =558.

reactant | 5(S)-(Boc-amino)-4(S)-hydroxy-6-phenyl-2(R)-[(2-methoxyphenyl)methyl]hexanoic acid | 500 mg | C(=O)(OC(C)(C)C)N[C@H]([C@H](C[C@H](C(=O)O)CC1=C(C=CC=C1)OC)O)CC1=CC=CC=C1 | C25H33NO6
reactant | imidazole | 614 mg | N1C=NC=C1 | C3H4N2
reactant | tert-butyldimethylchlorosilane | 796 mg | C(C)(C)(C)[Si](Cl)(C)C | C6H15ClSi
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 5(S)-(Boc-Amino)-4(S)-(tert-butyldimethylsilyloxy)-6-phenyl-2(R)-[(2-methoxyphenyl)methyl]hexanoic acid | C(=O)(OC(C)(C)C)N[C@H]([C@H](C[C@H](C(=O)O)CC1=C(C=CC=C1)OC)O[Si](C)(C)C(C)(C)C)CC1=CC=CC=C1 | C31H47NO6Si
